US08703768B2
Step 1: Methyl 3-(bis(tert-butoxycarbonyl)amino)-6-pyrrolidin-1-yl-pyrazine-2-carboxylate
A pre-dried flask was charged with copper(I) bromide (0.35 mg, 2.89 μmol), (R)-(+)-1,1′-bi-2-naphthol (1.66 mg, 5.78 μmol) and cesium carbonate (113 mg, 347 μmol) under argon atmosphere. DMF (0.5 ml), methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate (50 mg, 116 μmol) and pyrrolidine (14.3 μl, 174 μmol) were added and the reaction mixture was stirred at r.t. for 1.5 h. The reaction mixture was poured into water (10 ml) and extracted with ethyl acetate. The combined organic layer was washed with brine, dried, evaporated and purified by silica gel chromatography using a heptane/ethyl acetate gradient to yield the product as yellow solid (37 mg, 68%).

reactant | cesium carbonate | 347 μmol, 113 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 0.5 ml | CN(C)C=O | C3H7NO
reactant | methyl 3-(bis(tert-butoxycarbonyl)amino)-6-bromopyrazine-2-carboxylate | 116 μmol, 50 mg | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)Br)C(=O)OC)C(=O)OC(C)(C)C | C16H22BrN3O6
reactant | pyrrolidine | 174 μmol, 14.3 μl | N1CCCC1 | C4H9N
catalyst | copper(I) bromide | 2.89 μmol, 0.35 mg | [Cu]Br
catalyst | (R)-(+)-1,1′-bi-2-naphthol | 5.78 μmol, 1.66 mg | C1=CC=C2C(=C1)C=CC(=C2C3=C(C=CC4=CC=CC=C43)O)O | C20H14O2
solvent | water | 10 ml | O | H2O
product | Methyl 3-(bis(tert-butoxycarbonyl)amino)-6-pyrrolidin-1-yl-pyrazine-2-carboxylate | 37 mg, 68% | C(C)(C)(C)OC(=O)N(C=1C(=NC(=CN1)N1CCCC1)C(=O)OC)C(=O)OC(C)(C)C | C20H30N4O6
